US06583146B1
5-Amino-3-(4-methoxyphenyl)-2-(4-pyridyl)-7H-thiazolo[3,2-a]pyrimidin-7-one
To a suspension of [4-(4-methoxyphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine (1.0 g) in ethanol were added in turn a 20% solution of sodium ethoxide in ethanol (1.4 mL) and ethyl cyanoacetate (0.40 g). The resultant mixture was heated under reflux for 8 hours. After distilling off the solvent, water was added to the residue, the mixture was neutralized with acetic acid and the precipitate formed was filtered off. The remaining crude crystals were recrystallized from ethanol to obtain the title compound (0.52 g, yield 42%).

reactant | [4-(4-methoxyphenyl)-5-(4-pyridyl)-1,3-thiazol-2-yl]amine | 1.0 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=NC=C1)N | C15H13N3OS
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl cyanoacetate | 0.40 g | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 1.4 mL | C(C)O | C2H6O
product | 5-Amino-3-(4-methoxyphenyl)-2-(4-pyridyl)-7H-thiazolo[3,2-a]pyrimidin-7-one | 0.52 g, yield 42% | NC1=CC(N=C2N1C(=C(S2)C2=CC=NC=C2)C2=CC=C(C=C2)OC)=O | C18H14N4O2S
